US06127541
4-(1-Pyrrolidinyl)benzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 4-fluorobenzonitrile and pyrrolidine.

reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-(1-Pyrrolidinyl)benzonitrile | N1(CCCC1)C1=CC=C(C#N)C=C1 | C11H12N2
